US07297713B2
N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]propanamide
The title compound was prepared according to the general procedure for acylation of 5-(4-aminophenyl)-1-methyl-1H-pyrrole-2-carbonitrile using propionyl chloride (48 μL, 0.55 mmol) to provide N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]propanamide (0.012 g).

reactant | 5-(4-aminophenyl)-1-methyl-1H-pyrrole-2-carbonitrile | NC1=CC=C(C=C1)C1=CC=C(N1C)C#N | C12H11N3
reactant | propionyl chloride | 0.55 mmol, 48 μL | C(CC)(=O)Cl | C3H5ClO
product | N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]propanamide | 0.012 g | C(#N)C1=CC=C(N1C)C1=CC=C(C=C1)NC(CC)=O | C15H15N3O
